US05712267
(1R, 5S, 6S)-2-[(2S, 4S)-2-(4-Acetimidoylpiperazin-1-ylcarbonyl)-1-methylpyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid
Following a procedure similar to that described in Example 1, but using 181 mg of 4-nitrobenzyl (1R, 5R, 6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate and 220 mg of (2S, 4S)-4-mercapto-2-[4-(N-4-nitrobenzyloxycarbonylacetimidoyl)piperazin-1-ylcarbonyl]-1-methylpyrrolidine (prepared as described in Preparation 44), 20 mg of the title compound were obtained, as a powder.

reactant | 4-nitrobenzyl (1R, 5R, 6S)-6-[(1R)-1-hydroxyethyl]-1-methyl-2-oxo-1-carbapenam-3-carboxylate | 181 mg | O[C@H](C)[C@@H]1[C@@H]2N(C(C([C@@H]2C)=O)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C17H18N2O7
reactant | (2S, 4S)-4-mercapto-2-[4-(N-4-nitrobenzyloxycarbonylacetimidoyl)piperazin-1-ylcarbonyl]-1-methylpyrrolidine | 220 mg | S[C@H]1C[C@H](N(C1)C)C(=O)N1CCN(CC1)C(C)=NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C20H27N5O5S
product | (1R, 5S, 6S)-2-[(2S, 4S)-2-(4-Acetimidoylpiperazin-1-ylcarbonyl)-1-methylpyrrolidin-4-ylthio]-6-[(1R)-1-hydroxyethyl]-1-methyl-1-carbapen-2-em-3-carboxylic acid | 20 mg | C(C)(=N)N1CCN(CC1)C(=O)[C@H]1N(C[C@H](C1)SC=1[C@@H]([C@H]2N(C1C(=O)O)C([C@@H]2[C@@H](C)O)=O)C)C | C22H33N5O5S
